US06548511B1
N-Chlorosuccinimide (0.61 g, 5.15 mmol) was added at room temperature to dichloromethane (15 ml) solution of 3-ethyl-2-(2,3,4,5,6-pentafluorophenyl)amino-6-trifluoromethyl-4(3H)-pyrimidinone (1.28 g, 3.42 mmol), followed by stirring at the same temperature for 24 hours. After completion of the reaction, ether (20 ml) and saturated ammonium chloride aqueous solution (10 ml) were added to the reaction solution to separate the organic layer, and the aqueous layer was extracted with ether (10 ml×2). The organic layers were combined, washed with saturated brine and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. By purifying the thus obtained crude product by a silica gel column chromatography (hexane:ethyl acetate=3:1˜1:1), white solid of 5-chloro-3-ethyl-2-(2,3,4,5,6-pentafluorophenyl) amino-6-trifluoromethyl-4 (3H)-pyrimidinone [Compound No. 17] was obtained.

reactant | N-Chlorosuccinimide | 5.15 mmol, 0.61 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | 3-ethyl-2-(2,3,4,5,6-pentafluorophenyl)amino-6-trifluoromethyl-4(3H)-pyrimidinone | 3.42 mmol, 1.28 g | C(C)N1C(=NC(=CC1=O)C(F)(F)F)NC1=C(C(=C(C(=C1F)F)F)F)F | C13H7F8N3O
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 5-chloro-3-ethyl-2-(2,3,4,5,6-pentafluorophenyl) amino-6-trifluoromethyl-4 (3H)-pyrimidinone | ClC=1C(N(C(=NC1C(F)(F)F)NC1=C(C(=C(C(=C1F)F)F)F)F)CC)=O | C13H6ClF8N3O
